US08580841B2
Step A: Preparation of 4-(Hydroxymethyl)-2-(trifluoromethyl)benzonitrile.
To a solution of (4-chloro-3-(trifluoromethyl)phenyl)methanol (0.300 g, 1.425 mmol) in DMA was added dicyanozinc (0.335 g, 2.85 mmol) and tetrakis(triphenylphosphine) palladium (0) (0.165 g, 0.142 mmol). The reaction flask was degassed and charged with nitrogen, then heated at 150° C. for 6 h under microwave irradiation. The reaction mixture was poured into water and extracted with EtOAc. The EtOAc extract was washed with brine, dried over MgSO4 and purified by silica gel column chromatography to give the title compound as a white solid (0.105 g). LCMS m/z=202.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 1.98 (bs, 1H), 4.87 (s, 2H), 7.69 (d, J=0.88 Hz, 1H), 7.77-7.88 (m, 2H)

reactant | (4-chloro-3-(trifluoromethyl)phenyl)methanol | 1.425 mmol, 0.300 g | ClC1=C(C=C(C=C1)CO)C(F)(F)F | C8H6ClF3O
reactant | dicyanozinc | 2.85 mmol, 0.335 g | C(#N)[Zn]C#N
solvent | DMA | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.142 mmol, 0.165 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(Hydroxymethyl)-2-(trifluoromethyl)benzonitrile | 0.105 g | OCC1=CC(=C(C#N)C=C1)C(F)(F)F | C9H6F3NO
